US03980655
39. 1-(4-chlorophenyl)-4-[2-(1-methyl-piperazine-4-yl)-ethyl]-1,4-dihydro-2H-isoquinoline-3-one
50 ml of 85 % polyphosphoric acid and 50 g of phosphorus pentoxide were mixed and 0.1 mole of 1-cyano-1-phenyl-3-(1-methyl-piperazine-4-yl)-propane was added. The reaction mixture was heated to 80°C and 0.04 mole of 4-chlorobenzaldehyde was added. The whole was heated for 1 hour to 100°C and 0.04 mole of 4-chlorobenzaldehyde was added. After a further hour at 100°C the mixture was poured into 1 liter of water and the pH value was adjusted to 10 by means of concentrated ammonia. The crystal magma was filtered off with suction and recrystallized from ethanol. M.p.: 201°-205°C (oxalate)

reactant | phosphorus pentoxide | 50 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 1-cyano-1-phenyl-3-(1-methyl-piperazine-4-yl)-propane | 0.1 mole | C(#N)C(CCN1CCN(CC1)C)C1=CC=CC=C1 | C15H21N3
reactant | 4-chlorobenzaldehyde | 0.04 mole | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 4-chlorobenzaldehyde | 0.04 mole | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | ammonia | N | H3N
solvent | water | 1 liter | O | H2O
product | 1-(4-chlorophenyl)-4-[2-(1-methyl-piperazine-4-yl)-ethyl]-1,4-dihydro-2H-isoquinoline-3-one | ClC1=CC=C(C=C1)C1NC(C(C2=CC=CC=C12)CCN1CCN(CC1)C)=O | C22H26ClN3O
